US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(3-(methylsulfonyl)phenyl)urea
4-(4-Amino-3-fluorophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline (106 mg) and phenyl N-(3-(methylsulfonyl)phenyl)carbamate (96 mg) were added to 5 ml of toluene, and then 0.06 ml of diisopropylethylamine was added and the mixture was heated to reflux for 3 hours. After cooling, ethyl acetate was added and the precipitated insoluble portion was filtered out. The filtrate was concentrated, the resulting residue was dissolved in tetrahydrofuran, toluene was added, and the precipitated solid was filtered out to obtain 13 mg of the title compound as light brown crystals (8% yield).

reactant | 4-(4-Amino-3-fluorophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline | 106 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1)F | C19H16FN3O3
reactant | phenyl N-(3-(methylsulfonyl)phenyl)carbamate | 96 mg | CS(=O)(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C14H13NO4S
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 0.06 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(3-(methylsulfonyl)phenyl)urea | 13 mg, 8% yield | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C)F | C27H23FN4O6S
